US08686048B2
Intermediate 71: 3,5-difluoro-3′-(2,2,2-trifluoroethoxy)biphenyl-4-amine
The title compound (89 mg) was prepared from 4-bromo-2,6-difluoroaniline (80 mg, 0.38 mmol) and 3-(2,2,2-trifluoroethoxy)phenylboronic acid (108 mg, 0.5 mmol) as a colourless liquid.

reactant | 4-bromo-2,6-difluoroaniline | 0.38 mmol, 80 mg | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | 3-(2,2,2-trifluoroethoxy)phenylboronic acid | 0.5 mmol, 108 mg | FC(COC=1C=C(C=CC1)B(O)O)(F)F | C8H8BF3O3
product | 3,5-difluoro-3′-(2,2,2-trifluoroethoxy)biphenyl-4-amine | 89 mg | FC=1C=C(C=C(C1N)F)C1=CC(=CC=C1)OCC(F)(F)F | C14H10F5NO
